US07582636B2
In a round bottom flask under nitrogen was combined 4-bromo-benzene-1,2-diamine (2.01 g, 10.7 mmol), methanol (50 mL), and glyoxal (40% by wt. 3.1 mL, 26.9 mmol) and the resulting solution stirred overnight. The reaction was then concentrated in vacuo and purified by flash column chromatography on silica gel using 5-10% ethyl acetate in dichloromethane as eluant to yield 1.14 g (50% yield) of 6-Bromo-quinoxaline as a yellow-orange solid. 1H NMR (DMSO-d6): 9.00 (d,2H,J=2.8 Hz), 8.36 (d,1H,J=2.2 Hz), 8.07 (d,1H,J=9.0 Hz), 8.02 (dd,1H,J=8.8,2.1 Hz). CHN for C8H5BrN2: calc. C 45.97, H 2.41, N 13.4; found C 45.99, H 2.09, N 13.09. LC/MS (Method A): r.t.=1.10 min., purity=99%, calculated mass=208, [M+H]+=209/211. HPLC (Method B): r.t.=7.4 min., purity=98.52% at 210-370 and 98.8% at 322 nm.

reactant | 4-bromo-benzene-1,2-diamine | 10.7 mmol, 2.01 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | glyoxal | 26.9 mmol, 3.1 mL | C(=O)C=O | C2H2O2
solvent | methanol | 50 mL | CO | CH4O
product | 6-Bromo-quinoxaline | 1.14 g, 50% yield | BrC=1C=C2N=CC=NC2=CC1 | C8H5BrN2
